US03950528
3-Amino-1-(3-chlorobenzyl)-pyrazol-5-one ##SPC52##
35 g (10% excess) of β-amino-β-ethoxyacrylic acid ethyl ester are introduced into 100 ml of ethanol. 32 g of 3-chlorobenzylhydrazine in 50 ml of ethanol are added while stirring. The mixture is worked up as above. 18.9 g of the compound identified above, as colorless felted needles of melting point 132°, are obtained. (Yield: 42% of theory)

reactant | β-amino-β-ethoxyacrylic acid ethyl ester | 35 g | C(C)OC(C=C(OCC)N)=O | C7H13NO3
reactant | 3-chlorobenzylhydrazine | 32 g | ClC=1C=C(CNN)C=CC1 | C7H9ClN2
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-Amino-1-(3-chlorobenzyl)-pyrazol-5-one | Yield: 42% | NC=1NN(C(C1)=O)CC1=CC(=CC=C1)Cl | C10H10ClN3O
